US05952362
To a solution of crude (3-aminophenoxy)acetonitrile (ca 12.1 g) in toluene (50 mL) was added pyridine (6.6 mL) and methanesulfonyl chloride (6.3 mL) at 5° C. and the resultant mixture was warmed to ambient temperature. After 2 h, the crude product mixture was partitioned between 1N hydrochloric acid (100 mL) and ethyl acetate (100 mL). The phases were separated and the aqueous phase extracted with ethyl acetate (50 mL). The combined organic solution was washed with water, then concentrated with concomitant replacement of solvent with isopropanol. After cooling the resultant mixture to 5° C., the white crystalline product was collected, rinsed with cold isopropanol, and dried to afford 12.14 g (65.1% yield based on cyanomethyl tosylate) of N-(3-cyanomethoxyphenyl)methanesulfonamide (99.8% pure by HPLC). This material could optionally be recrystallized from isopropanol.

reactant | (3-aminophenoxy)acetonitrile | ca 12.1 g | NC=1C=C(OCC#N)C=CC1 | C8H8N2O
reactant | pyridine | 6.6 mL | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 6.3 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-cyanomethoxyphenyl)methanesulfonamide | 12.14 g, 65.1% yield | C(#N)COC=1C=C(C=CC1)NS(=O)(=O)C | C9H10N2O3S
